US07399759B2
2-(Trimethylsilyl)ethyl 2,2-dimethyl-3-(2-cyano-4-pyridyl)propionate
2-(Trimethylsilyl)ethyl 2,2-dimethyl-3-(4-pyridyl)propionate (0.77 g, 2.8 mmol) was dissolved in ethyl acetate (4 ml), and 3-chloroperbenzoic acid (ca. 77%, 0.68 g, 3.0 mmol) was added thereto. The reaction mixture was stirred at room temperature for 5 hrs and subjected to a silica gel (35 g) column chromatography. The fractions eluted with ethyl acetate-ethanol (4:1, v/v) were collected and concentrated. The residue was dissolved in acetonitrile (6 ml), and trimethylsilyl cyanide (0.49 g, 4.9 mmol) and N,N-dimethylcarbamoyl chloride(0.45 g, 4.2 mmol) were added thereto. The reaction mixture was stirred at room temperature for 14 hrs and combined with ethyl acetate and water. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution, 1 N hydrochloric acid and saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel (30 g) column chromatography. The fractions eluted with hexane-ethyl acetate (5:1, v/v) were collected and concentrated to give the titled compound (0.69 g, 91%).

reactant | 2-(Trimethylsilyl)ethyl 2,2-dimethyl-3-(4-pyridyl)propionate | 2.8 mmol, 0.77 g | CC(C(=O)OCC[Si](C)(C)C)(CC1=CC=NC=C1)C | C15H25NO2Si
reactant | 3-chloroperbenzoic acid | 3.0 mmol, 0.68 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | trimethylsilyl cyanide | 4.9 mmol, 0.49 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 4.2 mmol, 0.45 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(Trimethylsilyl)ethyl 2,2-dimethyl-3-(2-cyano-4-pyridyl)propionate | 0.69 g, 91% | CC(C(=O)OCC[Si](C)(C)C)(CC1=CC(=NC=C1)C#N)C | C16H24N2O2Si
